US08242162B2
4-aminotriphenylamine (48):
(N,N′-Bis(m-(boronic acid)phenyl)-1,5-bis(phenyl)anthracene-2,3,6,7-tetracarboxyl diimide (47): A mixture of 1,5-bis(phenyl)anthracene-2,3,6,7-tetracarboxyl bisanhydride (0.10 g, 0.22 mmol), 3-aminophenyl boronic acid monohydrate (0.99 g, 0.64 mmol) in 5 ml of acetic acid was reacted and worked up according to the procedure for coupling yielding a yellow solid. Product was dissolved in and heated slightly in chloroform. The chloroform was removed by vacuum filtration and the final product, a yellow solid, was dried in a vacuum oven. 1H NMR (300 MHz, CDCl3): δ 7.31-7.63 (m, 9H), 8.52 (s, 1H), 8.63 (s, 1H).

reactant | 3-aminophenyl boronic acid monohydrate | 0.64 mmol, 0.99 g | O.NC=1C=C(C=CC1)B(O)O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-aminotriphenylamine | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)N | C18H16N2
